US04220772
2.5 G. of 2-methoxyethyl 2-amino-6-chloro-4-pyrimidinecarbamate-3-oxide are mixed under argon with 3 ml. of 1,2,5,6-tetrahydropyridine and 25 ml. of chloroform. The mixture is stirred at 45° C. for 12 hours, then cooled and washed with 15 ml. of water. The product is extracted with chloroform, the organic phase is dried over sodium sulfate and the solvent is distilled off under reduced pressure. The residue obtained is crystallized from methylene chloride/ether, there being obtained pure 2-methoxyethyl 2-amino-6-[3,6-dihydro-1(2H)-pyridyl]-4-pyrimidinecarbamate having a melting point of 136° C.

reactant | 2-methoxyethyl 2-amino-6-chloro-4-pyrimidinecarbamate-3-oxide | NC1=NC(=CC(=[N+]1[O-])NC(=O)OCCOC)Cl | C8H11ClN4O4
reactant | 1,2,5,6-tetrahydropyridine | N1CC=CCC1 | C5H9N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-methoxyethyl 2-amino-6-[3,6-dihydro-1(2H)-pyridyl]-4-pyrimidinecarbamate | NC1=NC(=CC(=N1)NC(=O)OCCOC)N1CCC=CC1 | C13H19N5O3
